US04014889
A solution of 21.2 g (0.2 mol) of benzaldehyde and 100 ml of absolute dimethylformamide is added dropwise in the course of 1/2 hour to a mixture of 9.8 g (0.2 mol) of NaCN and 100 ml of absolute dimethylformamide in a manner analogous to Example 3. Stirring is continued for 21/2 hours at 35° C. A solution of 26.6 g (0.15 mol) of dimethyl-β-benzoyl-ethylamine and 100 ml of absolute dimethylformamide is then slowly added dropwise in the course of 2 hours. Stirring is continued for 2 hours at the same temperature and water is then added to the reaction mixture in three times its quantity. The reaction product precipitates immediately. After cooling in an ice bath, the precipitated product is suction filtered and thoroughly washed with water. 34.3 g of crude product are isolated. 21.6 g (60.5% of the theory) of dibenzoyl ethane are isolated by recrystallisation from ethanol; m.p. 143° C.

reactant | benzaldehyde | 0.2 mol, 21.2 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | NaCN | 0.2 mol, 9.8 g | [C-]#N.[Na+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | dimethyl-β-benzoyl-ethylamine | 0.15 mol, 26.6 g | CN(CCC(C1=CC=CC=C1)=O)C | C11H15NO
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | dibenzoyl ethane | C(C1=CC=CC=C1)(=O)C(C)C(C1=CC=CC=C1)=O | C16H14O2
